US06130238
Dimethyl malonate (11.4 mL) was added dropwise to 4.0 g sodium hydride suspended in 20 mL dimethylsulfoxide. The mixture was heated to 100° C. for 10 minutes and then cooled to room temperature. Crude 4-fluoro-3'-ethoxy-3-nitrobiphenyl (5.3 g) in 25 mL of dimethylsulfoxide was added and the mixture was heated at 100° C. for 2 hours. The reaction mixture was cooled and quenched with 300 mL of saturated ammonium chloride solution and extracted three times with ethyl acetate. The extracts were combined, washed with water and brine and then dried over anhydrous sodium sulfate and concentrated to give crude dimethyl 3'-ethoxy-3-nitrobiphenyl-4-malonate as a yellow oil.

reactant | Dimethyl malonate | 11.4 mL | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium hydride | 4.0 g | [H-].[Na+]
reactant | 4-fluoro-3'-ethoxy-3-nitrobiphenyl | 5.3 g | FC1=C(C=C(C=C1)C1=CC(=CC=C1)OCC)[N+](=O)[O-] | C14H12FNO3
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 25 mL | CS(=O)C | C2H6OS
product | dimethyl 3'-ethoxy-3-nitrobiphenyl-4-malonate | C(C)OC=1C=C(C=CC1)C1=CC(=C(C=C1)C(C(=O)OC)C(=O)OC)[N+](=O)[O-] | C19H19NO7
